US04600025
2-Methyl-5-(pyrrolidinomethyl)thiazole
A solution of 2-methyl-5-(pyrrolidinocarbonyl)thiazole in dry ether was added dropwise to a suspension of lithium aluminium hydride and the mixture was stirred at room temperature to give the title compound as a colourless liquid, b.p. 61-62°C.

reactant | 2-methyl-5-(pyrrolidinocarbonyl)thiazole | CC=1SC(=CN1)C(=O)N1CCCC1 | C9H12N2OS
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 2-Methyl-5-(pyrrolidinomethyl)thiazole | CC=1SC(=CN1)CN1CCCC1 | C9H14N2S
